* ============================================================
* Ferrite Bead SPICE Model
* Generic 600ohm @ 100MHz ferrite bead (0402/0603)
* For use with KiCad / ngspice
* ============================================================
*
* Models a ferrite bead as an RLC equivalent:
*   - DC resistance: ~0.1 ohm
*   - Peak impedance: ~600 ohm at 100MHz
*   - Inductive at low frequencies
*   - Resistive (lossy) at high frequencies
*
* The subcircuit avoids the ngspice "FB" reserved keyword
* conflict. Use reference designator L or XFB in KiCad.
*
* Pins: 1 = input, 2 = output
*
* Usage:
*   X1 in out FERRITE_BEAD
*
* ============================================================

.subckt FERRITE_BEAD 1 2

* DC resistance
R_dc 1 mid1 0.1

* Inductive component (dominates at low/mid frequencies)
L_bead mid1 mid2 1u

* Parallel resistance (models core loss at high frequencies)
R_loss mid1 mid2 600

* Small parasitic capacitance
C_par 1 2 0.5p

.ends FERRITE_BEAD
