* ============================================================
* PCM5122 - Behavioral SPICE Model (28-pin TSSOP)
* Texas Instruments 2Vrms DirectPath Audio Stereo DAC
* For use with KiCad / ngspice
* ============================================================
*
* Behavioral model of the analog output stage.
* Digital pins (I2S, I2C, GPIO) are present for netlist
* compatibility but are modeled as simple pull-down resistors.
*
* Pin mapping matches TSSOP-28 datasheet pinout 1:1.
*
* ============================================================

.subckt PCM5122
+ CPVDD CAPP CPGND CAPM VNEG OUTL OUTR AVDD AGND VCOM_DEMP
+ SDA SCL GPIO5 GPIO4 GPIO3 ADR2 MODE1 MODE2 GPIO6 SCK
+ BCK DIN LRCK ADR1 XSMT LDOO DGND DVDD

* --- Tie CPGND to AGND internally ---
R_cpgnd CPGND AGND 0.001

* --- Parameters ---
.param Vfs=2.97         ; Full-scale peak voltage (2.1Vrms)
.param Rout=200         ; Output impedance per channel (estimated)
.param Vldo=1.8         ; Internal LDO output voltage
.param Vneg_v=-1.8      ; Negative charge pump rail
.param Vcom_v=0         ; Common mode (ground-centered, VREF mode)
.param Fsig=1000        ; Default test tone frequency (1kHz)

* --- Supply current modeling ---
* AVDD: ~10mA typical analog supply
R_avdd AVDD avdd_int 0.1
I_avdd avdd_int AGND DC 10m

* DVDD: ~15mA typical digital supply
R_dvdd DVDD dvdd_int 0.1
I_dvdd dvdd_int DGND DC 15m

* CPVDD: ~5mA charge pump supply
R_cpvdd CPVDD cpvdd_int 0.1
I_cpvdd cpvdd_int AGND DC 5m

* --- Power-on detection ---
* DAC operates when AVDD > 2.8V and DVDD > 2.8V
B_pon pon AGND V = (V(AVDD,AGND) > 2.8 && V(DVDD,DGND) > 2.8 && V(CPVDD,AGND) > 2.8) ? 1 : 0

* --- Mute control ---
* XSMT pin: HIGH = unmuted, LOW = muted
B_unmute unmute AGND V = (V(pon,AGND) > 0.5 && V(XSMT,AGND) > 1.5) ? 1 : 0

* --- Internal LDO (LDOO pin) ---
* 1.8V output when DVDD = 3.3V, needs 10uF external bypass cap
B_ldoo LDOO AGND V = V(pon,AGND) > 0.5 ? Vldo : 0

* --- Charge Pump ---
* Generates VNEG rail (~-1.8V) from CPVDD
B_vneg VNEG AGND V = V(pon,AGND) > 0.5 ? Vneg_v : 0

* Charge pump flying capacitor terminals
R_capp CAPP cp_mid 10
R_capm CAPM cp_mid 10

* --- VCOM / DEMP output ---
* Ground-centered common mode reference (VREF mode)
B_vcom VCOM_DEMP AGND V = Vcom_v

* --- Audio Output: Left Channel ---
* Ground-centered, 200 ohm output impedance
* Built-in 1kHz test tone at full scale
V_audio_l audio_l_int AGND SIN(0 {Vfs} {Fsig})
B_outl outl_buffered AGND V = V(unmute,AGND) > 0.5 ? V(audio_l_int,AGND) : 0
R_outl outl_buffered OUTL {Rout}

* --- Audio Output: Right Channel ---
* Same as left, 90 degree phase offset for stereo testing
V_audio_r audio_r_int AGND SIN(0 {Vfs} {Fsig} 0 0 90)
B_outr outr_buffered AGND V = V(unmute,AGND) > 0.5 ? V(audio_r_int,AGND) : 0
R_outr outr_buffered OUTR {Rout}

* --- Digital pins (stubs for netlist compatibility) ---
* These don't affect analog simulation but prevent
* "floating node" errors in ngspice.
R_sda SDA DGND 100k
R_scl SCL DGND 100k
R_gpio5 GPIO5 DGND 100k
R_gpio4 GPIO4 DGND 100k
R_gpio3 GPIO3 DGND 100k
R_adr2 ADR2 DGND 100k
R_mode1 MODE1 DGND 100k
R_mode2 MODE2 DGND 100k
R_gpio6 GPIO6 DGND 100k
R_sck SCK DGND 100k
R_bck BCK DGND 100k
R_din DIN DGND 100k
R_lrck LRCK DGND 100k
R_adr1 ADR1 DGND 100k

.ends PCM5122
