* ============================================================
* SY8368AQQC - Behavioral SPICE Model
* Silergy 8A Synchronous Step-Down Regulator
* For use with KiCad / ngspice
* ============================================================
*
* Behavioral model capturing key electrical characteristics:
*   - Voltage-mode PWM switching at 800kHz
*   - Synchronous rectification with RDS(on) losses
*   - Internal 0.6V reference
*   - Enable / UVLO (3.9V)
*   - Internal 3.3V LDO on VCC pin
*   - Power Good open-drain output
*   - Soft start (~600us)
*
* Limitations:
*   - Simplified feedback loop (no detailed compensation)
*   - No thermal modeling
*   - No detailed gate drive timing / dead time
*   - ILMT current limiting not enforced
*
* Subcircuit pins match QFN-12 package pinout 1:1:
*   Pin 1  = GND1
*   Pin 2  = LX
*   Pin 3  = GND2
*   Pin 4  = IN1
*   Pin 5  = IN2
*   Pin 6  = IN3
*   Pin 7  = BS
*   Pin 8  = VCC
*   Pin 9  = FB
*   Pin 10 = ILMT
*   Pin 11 = PG
*   Pin 12 = EN
*
* Usage:
*   X1 GND1 LX GND2 IN1 IN2 IN3 BS VCC FB ILMT PG EN SY8368AQQC
*
* ============================================================

.subckt SY8368AQQC GND1 LX GND2 IN1 IN2 IN3 BS VCC FB ILMT PG EN

* --- Tie duplicate pins together internally ---
R_gnd12 GND1 GND2 0.001
R_in12 IN1 IN2 0.001
R_in23 IN2 IN3 0.001

* --- Use GND1 as the internal ground reference, IN1 as VIN ---

* --- Parameters ---
.param Fsw=800k
.param Tperiod={1/Fsw}
.param Vref=0.6
.param Rdson_hs=20m
.param Rdson_ls=10m
.param Vcc_int=3.3
.param Vuvlo=3.9

* --- Internal 3.3V LDO (VCC pin) ---
B_vcc VCC GND1 V = V(IN1,GND1) > Vuvlo ? Vcc_int : 0

* --- Enable and UVLO logic ---
B_en en_int GND1 V = (V(EN,GND1) > 0.8 && V(IN1,GND1) > Vuvlo) ? 1 : 0

* --- Soft Start Ramp ---
* RC charge toward 1V, ~600us time constant
R_ss1 ss_drv ss_node 1k
C_ss ss_node GND1 600n IC=0
B_ss_src ss_drv GND1 V = V(en_int,GND1) > 0.5 ? 1.0 : 0

* Effective reference: min of soft-start ramp and 0.6V
B_vref vref_eff GND1 V = min(V(ss_node,GND1), Vref)

* --- Error Amplifier (behavioral) ---
* High-gain comparison: FB vs reference -> duty cycle
B_ea ea_out GND1 V = V(en_int,GND1) > 0.5 ? min(max(200*(V(vref_eff,GND1) - V(FB,GND1)) + 0.25, 0.0), 0.95) : 0

* --- PWM Sawtooth + Comparator ---
V_saw saw_node GND1 PULSE(0 1 0 {Tperiod} 1n 1n {Tperiod})
B_pwm pwm_out GND1 V = V(ea_out,GND1) > V(saw_node,GND1) ? 5 : 0

* --- Power Stage (Synchronous Buck) ---
* High-side switch: VIN to LX when PWM high
S_hs IN1 LX pwm_out GND1 SW_HS
.model SW_HS SW VT=2.5 VH=0.5 RON={Rdson_hs} ROFF=10MEG

* Low-side needs inverted control
B_pwm_inv pwm_inv GND1 V = 5.0 - V(pwm_out,GND1)
S_ls LX GND1 pwm_inv GND1 SW_LS
.model SW_LS SW VT=2.5 VH=0.5 RON={Rdson_ls} ROFF=10MEG

* --- Bootstrap ---
R_bs_ext BS bs_mid 1
B_bs_chg bs_mid GND1 V = V(LX,GND1) + Vcc_int

* --- Power Good (open-drain output) ---
* PG is open drain: LOW when FB is outside 90%-120% of Vref
B_pg_ctrl pg_ctrl GND1 V = (V(FB,GND1) < 0.54 || V(FB,GND1) > 0.72) ? 5 : 0
S_pg PG GND1 pg_ctrl GND1 SW_PG
.model SW_PG SW VT=2.5 VH=0.5 RON=50 ROFF=10MEG

* --- ILMT pin (netlist compatibility) ---
R_ilmt ILMT GND1 1MEG

.ends SY8368AQQC
